Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ ___ gentleman with past medical history 
significant for hypothyroidism, hyperlipidemia, gastritis, 
prostadynia, and a distant history of stroke in ___ yo 
presented to ED w SSCP, tightness, and L leg and arm 
paresthesia. Of note, patient also with headache.  Pt reports 
two days of chest pain which is intermittent in nature, sharp, 
and on left lateral chest, an ___.  Pain comes and goes. 
Nothing improves the pain, however pt states that walking makes 
him feel worse.  Also endorses + SOB with pain with walking.  
Pain does also report jaw pain, however he states that he has 
had this pain for months and that this pain is worse with jaw 
opening and radiates to his ear.  Also endorses ear pain that 
feels like "pen going through his ears."  + intermittent nausea. 
no vomiting. Pt also endoreses pain over right frontal sinus 
pain and tenderness that has improved after getting ibuprofen in 
the ED.  Patient states that he has never had episode of chest 
pain like this before.
.
In the ED: CE negative x 2, was placed on observation, had EKG 
stress test in ED borderline positive, though did 11mets x 
10min. Now w/ only fleeting CP. on statin and ASA 325 at home. 
Admitted for medical management, although as per cardiology no 
intervention necessary.
.
ROS: 
(+) as above, + subjective fevers
(-) chills, night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
PMH:
1.  Hyperlipidemia.
2.  Gastritis/gerd.
3.  Prostadynia.
4.  CVA in ___.
5.  Left shoulder arthritis.
6.  Hypothyroidism.
7. Entamoeba histolytica infection
.

 
Social History:
___
Family History:
nc
 
Physical Exam:
Physical Exam:  
Vitals: T: 98.3 P: 60 BP: 102/59 R: 22 SaO2: 98% on RA  
General: Awake, alert, NAD.  
HEENT: NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted, MMM, no lesions noted in OP   
Pulmonary: Lungs CTA bilaterally  
Cardiac: RRR, nl. S1S2, no M/R/G noted  
Abdomen: soft, normoactive bowel sounds, + tenderness to 
palpation over RUQ and RLQ, + ___ sign, no rebounding or 
guarding, no masses or organomegaly noted.  
Extremities: No C/C/E bilaterally, 2+ radial  
Skin: no rashes or lesions noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.    
-cerebellar: No nystagmus, dysarthria, intention or action 
tremor
.

 
Pertinent Results:
___ 10:10PM BLOOD WBC-7.3 RBC-4.53* Hgb-13.8* Hct-40.4 
MCV-89 MCH-30.5 MCHC-34.2 RDW-13.2 Plt ___
___ 10:10PM BLOOD Neuts-54.7 ___ Monos-5.3 Eos-4.9* 
Baso-0.7
___ 05:20AM BLOOD ___
___ 10:10PM BLOOD D-Dimer-343
___ 08:00PM BLOOD ESR-8
___ 10:10PM BLOOD Glucose-99 UreaN-10 Creat-0.9 Na-141 
K-4.9 Cl-104 HCO3-25 AnGap-17
___ 08:00PM BLOOD ALT-15 AST-16 LD(LDH)-168 CK(CPK)-144 
AlkPhos-94 Amylase-87 TotBili-0.1
___ 08:00PM BLOOD Lipase-25
___ 10:10PM BLOOD CK-MB-6
___ 10:10PM BLOOD cTropnT-<0.01
___ 08:00PM BLOOD TSH-<0.02*
___ 05:20AM BLOOD TSH-PND
.
___ - stress test - Atypical chest symptoms with nonspecific 
ECG changes in the setting of baseline RBBB. 
.
___ - chest x-ray: Limited study secondary to low lung volumes. 
No definite acute cardiopulmonary process. 
.
___ - EKG - sinus rhythm at 62, regular rate, normal axis, 
PR interval prolonged 220 ms, RBBB, T wave inversion in V1
.
previous ekg - ___ - Sinus rhythm. First degree A-V delay. 
Right bundle-branch block. Since the previous tracing earlier 
this date no significant change.
 
Brief Hospital Course:
___ ___ gentleman with past medical history 
significant for hypothyroidism, hyperlipidemia, gastritis/gerd, 
prostadynia, and a distant history of stroke in ___ yo 
presented to ED with substernal chest pain and tightness. 
Troponin negative x3 but with mildly positive stress test in the 
ED. Admitted for medical management.
.
#) CV 
- chest pain differential diagnosis includes atypical chest pain 
vs. pleuritic vs. musculoskeletal. The troponins were negative 
x3 with normal CK-MB normal. As there was no acute evidence of 
ACS did not require IV heparin. Patient was monitored on 
telemetry, noted to have normal sinus rhythm with occasional 
sinus pause. Patient is already on appropriate therapy for CAD 
including statin and asa, even though stress test equivocal and 
no documented evidence of CAD. Stress test mildly positive 
stress test with atypical chest pain, however of note patient 
with 5 previous stress tests since ___.  Comtemplated starting 
beta blocker on this patient however BP < 100 so felt was 
unnecessary.  Chest x-ray was clear so unlikely that chest pain 
PNA, also afebrile without a white count. d-dimer not elevated 
making PE unlikely source for pain; also patient not tachycardic 
or tachypneic.  In addition, ESR was normal so unlikely there is 
any vasculitis.  Pain most likely musculoskeletal, treated with 
Tylenol.
.
#) lipids
- cont statin
.
#) Gastritis: PPi was continued in house.  Patient had some mild 
tenderness to palpation over RUQ and RLQ withut and rebounding 
or guarding. LFTs were normal.  Would follow abdominal exam on 
subsequent exams. Encouraged low fat diet rich with fruits and 
vegetables.
.
#) Hypothyroid - Levothryoxine was continued at home dose. TSH 
was < 0.02, was re-checked on discharge.  Will not adjust 
medication in house as not acute issue, however would consider 
outpatient titration of thyroid medications.
.
#) Ear/Jaw pain - likely TMJ given symptom description.   Pt on 
amitrypline as outpatient, continued in house.  Considered 
initially temporal arteritis given jaw/chest pain, however ESR 
is 8 so extremely unlikely.  TM on inspection without any gross 
abnormality. TM intact without purulence.  Could potentially be 
viral in etiology.  Would follow in clinic.  If continues to 
have pain could proceed with more involved work-up including ENT 
referral. Doubt need for it at this time. 
.
#) Eosinophilia
- this is an old problem likely from e. histolytica infection 
previously noted in PCP records for which he underwent treatment
- will trend CBC, will check stool O+P, stronglyoides antibody
.
#) Prophylaxis: PPI, sc heparin, bowel regimen
.
#) FEN: replete lytes prn, low cholesterol, heart healthy diet
.
#) Access: PIVs
.
#) Code Status: Full  
.

 
Medications on Admission:
1.  Levothyroxine 125 mcg p.o. daily.
2.  Aspirin 325 mg p.o. daily.
3.  Zocor 20 mg p.o. once daily.
4.  Cardura 4 mg p.o. q.h.s.
5.  Prilosec OTC 40 mg p.o. daily.
6.  Amitriptyline 10 mg p.o. q.h.s.

 
Discharge Medications:
1. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. Doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
3. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Amitriptyline 10 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Tylenol ___ mg Tablet Sig: Three (3) Tablet PO every six (6) 
hours as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1) atypical chest pain
2) hypothyroidism, hyperlipedemia, gastritis/gerd, prostadynia, 
remote CVA ___ without neurologic deficit

 
Discharge Condition:
vital signs stable, afebrile, still with intermittent chest pain 
along lateral side

 
Discharge Instructions:
You were admitted to the hosptial with chest pain and tightness. 
Your troponins were negative x 3, making heart attack an 
unlikely etiology for your chest pain. You underwent a stress 
test which demonstrated Atypical chest symptoms with nonspecific 
ECG changes in the 
setting of baseline RBBB.  There was no additional medical 
management required at this time.  You should continue to take 
all of your outpatient medications as previously prescribed.  
You should follow-up with our primary care clinic as below.  
Please return to the ER if you experience and crushing 
substernal chest pain, nausea, vomiting, diaphoresis.  You 
should try to get plenty of exercise and eat a healthy balanced 
diet with lots of fruits and vegetables that is low fat.  It has 
been a pleasure taking care of you at ___.  

 
Followup Instructions:
___